US07018997B2
Step 2: Preparation of 11-oxo-10,11-dihydrodibenzo[b,f][1,4]oxazepine-8-carbaldehyde.
8-(hydroxymethyl)dibenzo[b,f][1,4]oxazepin-11 (10H)-one (0.241 g, 1 mmole) in acetonitrile was added to the molecular sieves (1 g) under N2 at room temperature then 4-methylmorpholine N-oxide (0.175 g, 1.5 mmole) was also added into the reaction mixture. After stirring the mixture for 10 minutes, tetrapropylammonium perruthenate (0.0176 g, 0.05 mmole) was added and the reaction followed by t.l.c. until complete. Dilute the reaction mixture with 10 ml of ethyl acetate and flashed it through a small silica gel column. Collected all the ethyl acetate that contains desired material, extracted the organic layer with 1 N HCl and also washed it with brine. Dried the organic layer over sodium sulfate and filtered and concentrated. Obtained the desired-compound (white solid) in 83% yield.

reactant | 8-(hydroxymethyl)dibenzo[b,f][1,4]oxazepin-11 (10H)-one | 1 mmole, 0.241 g | OCC1=CC2=C(OC3=C(C(N2)=O)C=CC=C3)C=C1 | C14H11NO3
reactant | 4-methylmorpholine N-oxide | 1.5 mmole, 0.175 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrapropylammonium perruthenate | 0.05 mmole, 0.0176 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 11-oxo-10,11-dihydrodibenzo[b,f][1,4]oxazepine-8-carbaldehyde | 83% yield | O=C1NC2=C(OC3=C1C=CC=C3)C=CC(=C2)C=O | C14H9NO3
